*cp_inv
****************************************
* Type     : hspice
* Tool     : AETHER-SE
* Date     : Thu Mar 23 13:50:02 2023
* User     : mujt
* Top Design : ChargePump/cp_inv/schematic
****************************************

****************************************
* Library : ChargePump
* Cell    : cp_inv
* View    : schematic
****************************************

**TopDesStart
MPM0 Y A vdd vdd p18 L=180n W=1u AD=480f AS=480f PD=2.96u PS=2.96u M=1
MNM0 Y A vss vss n18 L=180n W=600n AD=288f AS=288f PD=2.16u PS=2.16u M=1
**TopDesEnd
